US04383945
To a solution of methyl 2-[(3R,4R)-4-allyl-3-phthalimido-2-oxoazetidin-1-yl]-3-methylbut-2-enoate (6.78 g) in a mixture of methylene chloride (46 ml) and methanol (23 ml) was added N,N-dimethyl-1,3-propanediamine (6.25 ml) at 0° C. and the mixture was left at room temperature for 5 days. The reaction mixture was evaporated and the residue was chromatographed on silica gel eluting with a mixture of methylene chloride and ethyl acetate (10:1-5) to give methyl 2-[(3R,4R)-3-amino-4-allyl-2-oxoazetidin-1-yl]-3-methylbut-2-enoate (3.70 g) as an oil.

reactant | methyl 2-[(3R,4R)-4-allyl-3-phthalimido-2-oxoazetidin-1-yl]-3-methylbut-2-enoate | 6.78 g | C(C=C)[C@@H]1[C@H](C(N1C(C(=O)OC)=C(C)C)=O)N1C(C=2C(C1=O)=CC=CC2)=O | C20H20N2O5
reactant | N,N-dimethyl-1,3-propanediamine | 6.25 ml | CN(CCCN)C | C5H14N2
solvent | methylene chloride | 46 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 23 ml | CO | CH4O
product | methyl 2-[(3R,4R)-3-amino-4-allyl-2-oxoazetidin-1-yl]-3-methylbut-2-enoate | 3.70 g | N[C@H]1C(N([C@@H]1CC=C)C(C(=O)OC)=C(C)C)=O | C12H18N2O3
